US05185370
4-[(4-Nitrophenyl)methylene]-3,5-heptanedione
The procedure described in Example 1 was repeated by using 1.5 g of 4-nitrobenzaldehyde and 2.0 g of 3,5-heptanedione. Yield 1.7 g, yellow oil.

reactant | 4-nitrobenzaldehyde | 1.5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 3,5-heptanedione | 2.0 g | CCC(CC(CC)=O)=O | C7H12O2
product | 4-[(4-Nitrophenyl)methylene]-3,5-heptanedione | [N+](=O)([O-])C1=CC=C(C=C1)C=C(C(CC)=O)C(CC)=O | C14H15NO4
